US07470715B2
n-Butyllithium (2.5 M in hexane, 983.8 mL) is added to a solution of 1-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-2-phenyl-ethanone oxime, which may be produced as in Example 136 (400 g) in THF (4 L) at 0° C. and the reaction solution is stirred for one hour at this temperature. Diethyl 1,1-cyclopropanedicarboxylate (227 mL) is added to the reaction solution, stirred for one hour at 0° C. and then the reaction is quenched with saturated ammonium chloride, diluted with ethyl acetate, washed with water, brine, dried over anhydrous sodium sulfate, filtered, and the filtrate evaporated under reduced pressure. The crude product is purified by column chromatography with 5-10% ethyl acetate in hexane to give a light yellow solid, which is triturated with pentane and filtered to give 1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-5-hydroxy-4-phenyl-4,5-dihydro-isoxazol-5-yl}-cyclopropanecarboxylic acid ethyl ester (230.8 g.)

reactant | n-Butyllithium | 2.5 M, 983.8 mL | C(CCC)[Li]
reactant | 1-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-2-phenyl-ethanone oxime | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C(CC1=CC=CC=C1)=NO)(C)C | C20H27NO2Si
reactant | Diethyl 1,1-cyclopropanedicarboxylate | 227 mL | C1(CC1)(C(=O)OCC)C(=O)OCC | C9H14O4
solvent | THF | 4 L | C1CCOC1 | C4H8O
product | 1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-5-hydroxy-4-phenyl-4,5-dihydro-isoxazol-5-yl}-cyclopropanecarboxylic acid ethyl ester | 230.8 g | C(C)OC(=O)C1(CC1)C1(C(C(=NO1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)O | C27H35NO5Si
